US05840745
5-glycoloyloxy-3-(quinol-4-ylmethylene)-2-oxindole
To a stirred solution of 5-hydroxy-3-(quinol-4-ylmethylene)-2-oxindole (2.883 g, 10 mmol) in pyridine (10 ml) was added gradually glycoloyl chloride (0.945 g, 10 mmol) at 0°-5° C. under cooling. The reaction mixture was stirred for about 4 h at 0°-5° C. and then for 15 h at room temperature. The mixture was poured onto an ice-water mixture, the precipitate filtered off, the residue washed thoroughly with water and then chromatographed on silica gel, using CHCl3 --MeOH mixtures as eluant. Thus pure title compound was obtained in about 60% yield.

reactant | 5-hydroxy-3-(quinol-4-ylmethylene)-2-oxindole | 10 mmol, 2.883 g | OC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C18H12N2O2
reactant | glycoloyl chloride | 10 mmol, 0.945 g | C(CO)(=O)Cl | C2H3ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-glycoloyloxy-3-(quinol-4-ylmethylene)-2-oxindole | about 60% yield | C(CO)(=O)OC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C20H14N2O4
